US06013626
To a solution of Cryptophycin 52 (6 mg, 0.009 mmol) in 0.6 mL of 2:1 1,2-dimethoxyethane/water was added 2 μL of 12 N HCl. The solution was allowed to stir at room temperature for 20 h, neutralized with potassium carbonate, filtered through a 5 mm filter, and evaporated. The acetonitrile-soluble material was purified by reversed-phase HPLC on C18 (250×10 mm column) using 4:1 MeOH/H2O to obtain 3.0 mg of Cryptophycin 55 (48%). 1H NMR (CDCl3) d unit A 7.35-7.42 (10-H/11-H/12-H/13-H/14-H; m), 6.78 (3-H; ddd, 15.1/10.6/4.5), 5.78 (2-H; dd, 15.1/1.7), 5.16 (6-H; ddd, 11.1/8.3/2.1), 4.65 (8-H; d, 9.7), 4.01 (7-H; bd, 9.7), 2.69 (4-H; dddd, -14.5/4.5/2.1/1.7), 2.50 (6-H; bm, W1/2 ≈15), 2.38 (4-Ha ; ddd, -14.5/11.1/10.6), 1.53 (7-OH, s), 1.04 (6-Me, d, 7.1)l unit B 7.21 (5-H; d, 2.2), 7.07 (9-H; dd, 8.5/2.2), 6.85 (8-H; d, 8.5), 5.57 (2-NH; d, 7.8), 4.74 (2-H; ddd, 7.8/7.6/5.2), 3.88 (7-OCH3 ; s), 3.13 (3-Hb ; dd, 14.5/5.2), 3.05 (3-Ha ; dd, 14.5/7.6); unit C 7.21 (3-NH; m), 3.38 (3-Hb ; dd, 13.5/8.3), 3.17 (3-Ha ; dd, 13.5/4.1), 1.23* (2-CH3 ; s), 1.17* (2-CH3 '; s), unit D 4.93 (2-H; dd, 10.1/3.5), 1.78 (3-Hb ; ddd, 13.5/10.1/5.0), 1.72 (4-H; bm, W1/2 ≈20), 1.43 (3-H3 ; ddd, 13.5/8.8/3.5), 0.92.dagger. (4-CH3 ; d, 6.6), 0.92.dagger. (5-H3, d, 6.4). 13C NMR (CDCl3) d unit A 165.1 (C-1), 142.4 (C-3), 138.4 (C-9), 129.0 (C-11/13), 128.3 (C-12), 128.0 (C-10/14), 124.6 (C-2), 76.1 (C-5), 74.1 (C-7), 62.0 (C-8), 38.4 (C-6), 36.5 (C-4), 8.6 (6-Me); unit B 170.3 (C-1), 154.1 (C-7), 130.9 (C-5), 129.6 (C-4), 129.2 (C-9), 122.6 (C-6), 112.3 (C-8), 56.1 (7-OMe), 54.3 (C-2), 35.3 (C-3)l unit C 177.8 (C-1), 46.5 (C-3), 42.8 (C-2), 22.9 (2-Me), 23.0 (C-2-Me'); unit D 170.3 (C-1), 71.3 (C-2), 39.7 (C-3), 24.8 (C-4), 22.7.dagger. (4-Me), 21.6.dagger. (C-5). (Resonances with identical superscripts are interchangeable). The corresponding diol, Cryptophycin 56 (2.8 mg, 44% yield), was also obtained.

reactant | Cryptophycin 52 | 0.009 mmol, 6 mg | C[C@@H]([C@@H]1C/C=C/C(=O)N[C@@H](C(=O)NCC(C(=O)O[C@H](C(=O)O1)CC(C)C)(C)C)CC=2C=CC(=C(C2)Cl)OC)[C@@H]3[C@H](O3)C=4C=CC=CC4 | C36H45ClN2O8
reactant | HCl | 12 N, 2 μL | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane water | 0.6 mL | COCCOC.O
product | Cryptophycin 55 | 3.0 mg, 48% | C[C@@H]([C@@H]1C/C=C/C(=O)N[C@@H](C(=O)NCC(C(=O)O[C@H](C(=O)O1)CC(C)C)(C)C)CC2=CC(=C(C=C2)OC)Cl)[C@H]([C@H](C3=CC=CC=C3)Cl)O | C36H46Cl2N2O8
